Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / amoxicillin / atenolol / clindamycin / codeine / 
doxycycline / Penicillins / Zomig / erythromycin base
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of HLD, heart murmur, Bipolar D/O and current 
smoker presents with chest pain and elevated troponin at OSH. 
While doing an obstacle course race today, she developed some 
left sided chest/shoulder pain with radiation to the jaw which 
started at 2PM and lasted until ~830PM. There was associated 
dyspnea and possible diaphoresis initially though the patient 
was running for several hours on an obstacle course. She denies 
cough, fever and chills.

She presented to ___ initially where first troponin 
was negative. Second troponin, done at 20:30 on ___, was 0.109 
(Troponin I with cut off for possible 0.04 per assay). ECGs did 
not demonstrate any acute ischemic changes. She was then given 
heparin bolus and started on gtt. She also received 600mg 
Plavix, nitroglycerin and ibuprofen. CXR was unremarkable. She 
is allergic to aspirin, and did not receive any.

She was transferred to ___ for further evaluation.

In the ED, initial vitals were:  T98.8, HR 60, BP 120/52, RR 20, 
96% RA. She was chest pain free on arrival wit heparin gtt 
running.
ECG here: rate 59, sinus rhythm, normal axis, QTc 474 with 
non-specific ST-T segment flattening throughout, and low 
voltages.
Labs showed normal CBC with macrocytosis (MCV 103), PTT 59.4, 
chem panel unremarkable, troponin 0.01 with flat MB. Bedside 
echo done in the ED showed no effusion.

She was continued on heparin and admitted to medicine for 
concern for NSTEMI.

On the floor, patient resting comfortably in bed without any 
pain. She confirms the above history. Of note, she also reports 
that she runs every weekend and has never had chest pain or 
shoulder/jaw pain. In fact, she ran 35 miles last weekend 
without issue.
 
Past Medical History:
High cholesterol
Heart murmur
Bipolar disorder
Cholycystectomy
Carpal Tunnel
 
Social History:
___
Family History:
no hx of heart disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: 98; 114/56; 53; 18; 97RA; 83.9kg
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PER, neck 
supple, JVP not elevated, no LAD. Xanthelasma in bilateral eyes
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM (known)
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&Ox3. Grossly intact.

DISCHARGE PHYSICAL EXAM:
========================

Vitals: 98.0 114/56 53 18 97%RA
Wt 83.9kg
I/Os: +80/-200
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PER, neck 
supple, JVP not elevated, no LAD. Xanthelasma in bilateral eyes
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM (known)
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&Ox3. Grossly intact. 

 
Pertinent Results:
ADMISSION LABS:
=================

___ 11:55PM BLOOD WBC-8.8 RBC-3.63* Hgb-12.4 Hct-37.3 
MCV-103* MCH-34.2* MCHC-33.2 RDW-12.5 RDWSD-47.4* Plt ___
___ 11:55PM BLOOD Neuts-54.7 ___ Monos-6.9 Eos-3.1 
Baso-0.7 Im ___ AbsNeut-4.80 AbsLymp-3.02 AbsMono-0.61 
AbsEos-0.27 AbsBaso-0.06
___ 11:55PM BLOOD ___ PTT-59.4* ___
___ 11:55PM BLOOD Glucose-101* UreaN-15 Creat-0.9 Na-136 
K-3.4 Cl-103 HCO3-23 AnGap-13
___ 11:55PM BLOOD CK(CPK)-776*
___ 06:30AM BLOOD CK-MB-6 cTropnT-<0.01
___ 11:55PM BLOOD cTropnT-0.010
___ 11:55PM BLOOD CK-MB-7
___ 06:30AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.3 Cholest-184
___ 06:30AM BLOOD Triglyc-72 HDL-35 CHOL/HD-5.3 
LDLcalc-135* LDLmeas-136*

___ 11:55PM BLOOD GreenHd-HOLD

OTHER PERTINENT/DISCHARGE LABS:
===============================
___ 06:30AM BLOOD WBC-6.5 RBC-3.47* Hgb-11.9 Hct-36.1 
MCV-104* MCH-34.3* MCHC-33.0 RDW-12.6 RDWSD-48.0* Plt ___
___ 06:30AM BLOOD Glucose-95 UreaN-14 Creat-0.9 Na-139 
K-3.4 Cl-103 HCO3-23 AnGap-16
___ 06:30AM BLOOD CK(CPK)-609*
___ 06:30AM BLOOD 25VitD-29*

 
Brief Hospital Course:
___ transferred with elevated troponin I and chest/jaw 
discomfort during an obstacle course race. Negative Trop x2. No 
ischemic changes on EKG but found to have dynamic T wave 
flattening. Started on aspirin 81mg pending outpatient stress. 
Started on atorvastatin 40mg for hyperlipidemia evidenced with 
xanthelasma on bilateral eyelids and significant family history. 
Exam concerning for aortic stenosis, will need formal TTE.

TRANSITIONAL ISSUES:
-started on atorvastatin 40mg qHS for hyperlipidemia and aspirin 
81 for primary prevention pending outpatient stress test
-recommend TTE to evaluate for valvular disease, exam concerning 
for aortic stenosis
-recommend stress echo to evaluate for ischemic changes given 
typical chest pain symptoms during exertion, hyperlipidemia, and 
dynamic T-wave flattening
-vitamin D level pending at discharge. Would treat with 50,000U 
vitamin D qWeekly x8 weeks followed by 800U daily and recheck 
level
-recommend continued counseling regarding cardiac risk factor 
reduction including smoking cessation and alcohol use
-clarified that patient had a nosebleed as a child when given 
aspirin. She has been taking Excedrin for headaches her entire 
life with no reactions and is comfortable taking aspirin 81mg 
daily
-counseled pt re elevated MCV and alcohol use
-Full code, confirmed
-Emergency contact: sister ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were recently transferred here with an 
abnormal troponin test and chest/jaw discomfort. You were 
evaluated with EKG and further blood tests which were 
reassuring. Given your heart murmur and some small changes on 
your EKG, we are recommending that you get a formal 
transthoracic echocardiogram (TTE), which is a picture of your 
heart. We are also recommending that you get a stress test. We 
are recommending that you take two new medications, 
atorvastatin, for your high cholesterol, and a baby aspirin, to 
help reduce your risk of heart disease.

Please schedule an appointment with your ___ primary care doctor 
as soon as possible to discuss these tests and to follow up.

It was a pleasure caring for you.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___